*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 3.7
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_0 1 2 3 4 REF
C_C1 1 REF 1.1267088710394pf
C_C2 1 2 15.388415462481pf
C_C3 1 3 0.0206933426pf
C_C4 1 4 0.2163377028343pf
C_C5 2 REF 1.3081309605803pf
C_C6 2 3 0.1121576692034pf
C_C7 3 REF 0.4588628411411pf
C_C8 3 4 6.2394374042623pf
C_C9 4 REF 0.4579690259058pf
L_L1 3 5 1.3011778996838nh
R_RL1 5 4 -1.099487753e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_1 1 2 3 4 REF
C_C1 1 REF 0.8425025109718pf
C_C2 1 2 15.78996231308pf
C_C3 1 3 0.0199053384003pf
C_C4 1 4 0.2186882517965pf
C_C5 2 REF 1.0300377576899pf
C_C6 2 3 0.1123378013917pf
C_C7 3 REF 0.459501813765pf
C_C8 3 4 4.6206984393024pf
C_C9 4 REF 0.457413865644pf
L_L1 3 5 1.3024883946285nh
R_RL1 5 4 3.6542284533e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_2 1 2 3 4 REF
C_C1 1 REF 0.634865182423pf
C_C2 1 2 16.182654988261pf
C_C3 1 3 0.01900577377pf
C_C4 1 4 0.2216204215121pf
C_C5 2 REF 0.8303129405558pf
C_C6 2 3 0.1126641195997pf
C_C7 3 REF 0.4601048608614pf
C_C8 3 4 3.4896730676915pf
C_C9 4 REF 0.4570626352912pf
L_L1 3 5 1.3035800659866nh
R_RL1 5 4 2.1727179501e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_3 1 2 3 4 REF
C_C1 1 REF 0.4612986838081pf
C_C2 1 2 16.681437678736pf
C_C3 1 3 0.0177178744352pf
C_C4 1 4 0.2261080197395pf
C_C5 2 REF 0.6678389978096pf
C_C6 2 3 0.113279960707pf
C_C7 3 REF 0.4608135528815pf
C_C8 3 4 2.5158356419984pf
C_C9 4 REF 0.4568496372753pf
L_L1 3 5 1.3046850324678nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_4 1 2 3 4 REF
C_C1 1 REF 0.3379092956886pf
C_C2 1 2 17.306100441324pf
C_C3 1 3 0.0159659902783pf
C_C4 1 4 0.2325091820577pf
C_C5 2 REF 0.5581000120679pf
C_C6 2 3 0.114299904544pf
C_C7 3 REF 0.4615889262039pf
C_C8 3 4 1.7348766493732pf
C_C9 4 REF 0.4568209447717pf
L_L1 3 5 1.305789292308nh
R_RL1 5 4 -1.325029633e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_5 1 2 3 4 REF
C_C1 1 REF 0.2739538671366pf
C_C2 1 2 17.984965149525pf
C_C3 1 3 0.0139610330528pf
C_C4 1 4 0.2400549939014pf
C_C5 2 REF 0.5078676213845pf
C_C6 2 3 0.1156512056221pf
C_C7 3 REF 0.4622862862081pf
C_C8 3 4 1.2177686334462pf
C_C9 4 REF 0.4569681729682pf
L_L1 3 5 1.3066809464587nh
R_RL1 5 4 -2.903397638e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_6 1 2 3 4 REF
C_C1 1 REF 0.2439550129335pf
C_C2 1 2 18.732165553665pf
C_C3 1 3 0.0116903607774pf
C_C4 1 4 0.2487084456714pf
C_C5 2 REF 0.4917764304176pf
C_C6 2 3 0.1173443175083pf
C_C7 3 REF 0.4629079938173pf
C_C8 3 4 0.8633507344331pf
C_C9 4 REF 0.4572327201889pf
L_L1 3 5 1.307412907287nh
R_RL1 5 4 -4.229541014e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_7 1 2 3 4 REF
C_C1 1 REF 0.231525906328pf
C_C2 1 2 19.708471304676pf
C_C3 1 4 0.2602441139648pf
C_C4 2 REF 0.4963078993735pf
C_C5 2 3 0.1197900205474pf
C_C6 3 REF 0.4635396054681pf
C_C7 3 4 0.5803719314623pf
C_C8 4 REF 0.4576352777474pf
L_L1 3 5 1.308102526876nh
R_RL1 5 4 -5.442548377e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_8 1 2 3 4 REF
C_C1 1 REF 0.2298084480522pf
C_C2 1 2 20.956549849195pf
C_C3 1 4 0.275080401159pf
C_C4 2 REF 0.515273679563pf
C_C5 2 3 0.1231822728992pf
C_C6 3 REF 0.4641342490464pf
C_C7 3 4 0.362323260579pf
C_C8 4 REF 0.4581448791062pf
L_L1 3 5 1.3087522984925nh
R_RL1 5 4 -6.458630514e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_9 1 2 3 4 REF
C_C1 1 REF 0.2323469499368pf
C_C2 1 2 22.565869590164pf
C_C3 1 4 0.2941323429542pf
C_C4 2 REF 0.5436535976169pf
C_C5 2 3 0.1278962198364pf
C_C6 3 REF 0.464630913816pf
C_C7 3 4 0.2014821830948pf
C_C8 4 REF 0.4587124830717pf
L_L1 3 5 1.3093259421575nh
R_RL1 5 4 -7.103902271e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_10 1 2 3 4 REF
C_C1 1 REF 0.2333384386741pf
C_C2 1 2 24.619857464213pf
C_C3 1 4 0.3181660306611pf
C_C4 2 REF 0.5768992460554pf
C_C5 2 3 0.1343084856385pf
C_C6 3 REF 0.4649645548721pf
C_C7 3 4 0.0849293601183pf
C_C8 4 REF 0.4592617518382pf
L_L1 1 5 69.177679798746nh
R_RL1 5 2 5.2258908501321
L_L2 3 6 1.3098044148432nh
R_RL2 6 4 -7.283303285e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_11 1 2 3 4 REF
C_C1 1 REF 0.2284291850919pf
C_C2 1 2 27.307349538954pf
C_C3 1 4 0.3490581537158pf
C_C4 2 REF 0.6131982051866pf
C_C5 2 3 0.1431796795432pf
C_C6 3 REF 0.4650676570904pf
C_C7 4 REF 0.4597218584734pf
L_L1 1 5 43.728680245808nh
R_RL1 5 2 0.4611536233833
L_L2 3 6 1.3101790979674nh
R_RL2 6 4 -6.885180892e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_12 1 2 3 4 REF
C_C1 1 REF 0.2145075523544pf
C_C2 1 2 30.882609219022pf
C_C3 1 4 0.3893465608433pf
C_C4 2 REF 0.6526197219737pf
C_C5 2 3 0.1554806872062pf
C_C6 3 REF 0.4649074493675pf
C_C7 4 REF 0.4600539680528pf
L_L1 1 5 27.284397350077nh
R_RL1 5 2 -1.299812950641
L_L2 3 6 1.3100253086281nh
R_RL2 6 4 -5.873875216e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_13 1 2 3 4 REF
C_C1 1 REF 0.1874009690124pf
C_C2 1 2 35.924397251684pf
C_C3 1 4 0.4450844678846pf
C_C4 2 REF 0.6985485784127pf
C_C5 2 3 0.1733113267752pf
C_C6 3 REF 0.4644653247317pf
C_C7 4 REF 0.4602699417332pf
R_R1 1 2 650.38636499163
L_L1 1 5 16.651892776427nh
R_RL1 5 2 -1.286154665768
L_L2 3 6 1.3096884314183nh
R_RL2 6 4 -4.274019557e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_14 1 2 3 4 REF
C_C1 1 REF 0.1408098718086pf
C_C2 1 2 43.426870896756pf
C_C3 1 4 0.5268862716521pf
C_C4 2 REF 0.7580621947925pf
C_C5 2 3 0.2001869273116pf
C_C6 3 REF 0.463758912137pf
C_C7 4 REF 0.4604609636257pf
R_R1 1 2 346.17399861658
L_L1 1 5 9.9153066572062nh
R_RL1 5 2 -0.30208966905
L_L2 3 6 1.3091561028906nh
R_RL2 6 4 -2.136325929e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_15 1 2 3 4 REF
C_C1 1 REF 0.0586745020059pf
C_C2 1 2 55.805594373647pf
C_C3 1 4 0.6608105303821pf
C_C4 2 REF 0.8483863870222pf
C_C5 2 3 0.2446506832809pf
C_C6 3 REF 0.462780640866pf
C_C7 4 REF 0.4608407997764pf
R_R1 1 2 211.24598115982
L_L1 1 5 5.9661579704763nh
R_RL1 5 2 -0.616904016989
L_L2 3 6 1.3082374872019nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_16 1 2 3 4 REF
C_C1 1 2 80.890880327389pf
C_C2 1 4 0.9315354030142pf
C_C3 2 REF 1.0247101967817pf
C_C4 2 3 0.334519476129pf
C_C5 3 REF 0.4613595867384pf
C_C6 4 REF 0.4620093493321pf
R_R1 1 2 130.83016262673
L_L1 1 5 2.6096754275759nh
R_RL1 5 2 -0.33365522999
L_L2 3 6 1.3064269750406nh
R_RL2 6 4 2.8845200205e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_17 1 2 3 4 REF
C_C1 1 2 147.34137637664pf
C_C2 1 4 1.6490064217625pf
C_C3 2 REF 1.4867650519306pf
C_C4 2 3 0.5717272325804pf
C_C5 3 REF 0.4588593542899pf
C_C6 4 REF 0.4661736853167pf
R_R1 1 2 71.68738681068
L_L1 1 5 0.9683516690418nh
R_RL1 5 2 -0.103074413237
L_L2 1 6 44.624000201317nh
R_RL2 6 3 -0.080158635696
L_L3 1 7 43.905164009185nh
R_RL3 7 4 -0.081040086331
L_L4 2 8 44.722985429488nh
R_RL4 8 3 0.0019146706359
L_L5 2 9 44.007449247986nh
R_RL5 9 4 0.0019197855022
L_L6 3 10 1.3017850780947nh
R_RL6 10 4 5.1966412229e-5
Kn_K1 L_L1 L_L2 0.0661259727487
Kn_K2 L_L1 L_L3 0.0664120452088
Kn_K3 L_L1 L_L4 -0.081094160314
Kn_K4 L_L1 L_L5 -0.082003533029
Kn_K5 L_L2 L_L3 0.9853278920002
Kn_K6 L_L2 L_L4 0.9891625058772
Kn_K7 L_L2 L_L5 0.9743731233996
Kn_K8 L_L2 L_L6 -0.132556500656
Kn_K9 L_L3 L_L4 0.9744645490546
Kn_K10 L_L3 L_L5 0.9889857349846
Kn_K11 L_L3 L_L6 0.038554318837
Kn_K12 L_L4 L_L5 0.9853608046218
Kn_K13 L_L4 L_L6 -0.13219347887
Kn_K14 L_L5 L_L6 0.0387274854744
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_18 1 2 3 4 REF
C_C1 1 2 490.68497788835pf
C_C2 1 4 5.3602363128916pf
C_C3 2 REF 3.8728984904407pf
C_C4 2 3 1.7947670918162pf
C_C5 3 REF 0.4495212526732pf
C_C6 4 REF 0.4910999172999pf
R_R1 1 2 21.605244561492
L_L1 1 5 23.720223333072nh
R_RL1 5 REF -0.535628427473
L_L2 1 6 0.1966685838768nh
R_RL2 6 2 -0.018836848882
L_L3 1 7 10.967785009705nh
R_RL3 7 3 -0.01133973071
L_L4 1 8 10.300779893003nh
R_RL4 8 4 -0.012060447708
L_L5 2 9 23.589171757129nh
R_RL5 9 REF -0.555519891041
L_L6 2 10 11.009860830191nh
R_RL6 10 3 -3.836024567e-4
L_L7 2 11 10.34730084856nh
R_RL7 11 4 -2.86808975e-4
L_L8 3 12 34.472058528017nh
R_RL8 12 REF -0.56324373177
L_L9 3 13 1.2781207044635nh
R_RL9 13 4 5.9282770342e-5
L_L10 4 14 33.796643708656nh
R_RL10 14 REF -0.563758875688
Kn_K1 L_L1 L_L2 0.0758658416364
Kn_K2 L_L1 L_L5 0.9958467483195
Kn_K3 L_L1 L_L8 0.8257419484662
Kn_K4 L_L1 L_L10 0.8338037126553
Kn_K5 L_L2 L_L3 0.0526298588166
Kn_K6 L_L2 L_L4 0.0527455629647
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081123148119
Kn_K9 L_L2 L_L7 -0.085238119733
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9403681922037
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9910532425126
Kn_K15 L_L3 L_L7 0.930996071909
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.259760016936
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9315200255703
Kn_K21 L_L4 L_L7 0.9904777263072
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.08421168884
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8249969009336
Kn_K26 L_L5 L_L10 0.8329721294431
Kn_K27 L_L6 L_L7 0.9406076735554
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.258670700003
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0846333305813
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1471538987914
Kn_K35 L_L8 L_L10 0.9813261147001
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_19 1 2 3 4 REF
C_C1 1 REF 14.451882264351pf
C_C2 1 3 7.2516627311351pf
C_C3 2 4 21.839516775477pf
C_C4 3 REF 0.5107354611991pf
C_C5 4 REF 0.3020592883085pf
R_R1 1 2 -7.886065460132
R_R2 1 4 -722.0095345942
R_R3 2 4 723.53454191788
L_L1 1 5 4.3249991207154nh
R_RL1 5 REF -0.019211680346
L_L2 1 6 0.2350109523887nh
R_RL2 6 2 0.1113085036331
L_L3 1 7 2.7751391741645nh
R_RL3 7 3 0.0513555814864
L_L4 1 8 2.2170602025383nh
R_RL4 8 4 0.0691867504991
L_L5 2 9 4.5199346601813nh
R_RL5 9 REF 0.1021604721975
L_L6 2 10 2.7131396085463nh
R_RL6 10 3 0.0115455457198
L_L7 2 11 2.1158351085961nh
R_RL7 11 4 0.0050141382408
L_L8 3 12 7.0945974953059nh
R_RL8 12 REF 0.0381409632744
L_L9 3 13 1.1675211952882nh
R_RL9 13 4 0.0013915103525
L_L10 4 14 6.5444466791944nh
R_RL10 14 REF 0.0570211205238
Kn_K1 L_L1 L_L2 0.0198751743554
Kn_K2 L_L1 L_L5 0.9736663770403
Kn_K3 L_L1 L_L8 0.7802806776999
Kn_K4 L_L1 L_L10 0.8131607195296
Kn_K5 L_L2 L_L3 0.1838888506246
Kn_K6 L_L2 L_L4 0.232906430947
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.108333947788
Kn_K9 L_L2 L_L7 -0.094862650131
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0374422870182
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7709634254082
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9572405613481
Kn_K16 L_L3 L_L7 0.7279044506941
Kn_K17 L_L3 L_L8 0.974095372576
Kn_K18 L_L3 L_L9 -0.479330879069
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7111753806797
Kn_K22 L_L4 L_L7 0.9460194166089
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1894006278788
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0197717354503
Kn_K27 L_L5 L_L7 0.0147653454508
Kn_K28 L_L5 L_L8 0.7859555752004
Kn_K29 L_L5 L_L9 -0.010263303374
Kn_K30 L_L5 L_L10 0.8226591742084
Kn_K31 L_L6 L_L7 0.764093577959
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.495796395524
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1813997302058
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2984104145971
Kn_K39 L_L8 L_L10 0.9151433920198
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_20 1 2 3 4 REF
C_C1 1 2 837.23177295668pf
C_C2 1 4 9.1014480921982pf
C_C3 2 REF 6.278258029071pf
C_C4 2 3 3.0297219169998pf
C_C5 3 REF 0.4397450596866pf
C_C6 4 REF 0.5155504430848pf
R_R1 1 2 23.629344079052
L_L1 1 5 8.9814937781629nh
R_RL1 5 REF -0.064894789789
L_L2 1 6 0.0540501632163nh
R_RL2 6 2 -2.703869096e-3
L_L3 1 7 4.7634711113209nh
R_RL3 7 3 -1.278391249e-3
L_L4 1 8 4.1243842675843nh
R_RL4 8 4 -1.557401141e-3
L_L5 2 9 8.9116081165716nh
R_RL5 9 REF -0.067368207702
L_L6 2 10 4.789029348042nh
R_RL6 10 3 1.0e-5
L_L7 2 11 4.1569358514764nh
R_RL7 11 4 1.7739826252e-5
L_L8 3 12 13.663854723686nh
R_RL8 12 REF -0.068152937318
L_L9 3 13 1.2333319664537nh
R_RL9 13 4 3.8875485684e-5
L_L10 4 14 13.017290583709nh
R_RL10 14 REF -0.068510376618
Kn_K1 L_L1 L_L2 0.0889393751951
Kn_K2 L_L1 L_L5 0.9969868781331
Kn_K3 L_L1 L_L8 0.8070904573752
Kn_K4 L_L1 L_L10 0.8265457413936
Kn_K5 L_L2 L_L3 0.0280757616541
Kn_K6 L_L2 L_L4 0.0227667846901
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.078236001307
Kn_K9 L_L2 L_L7 -0.091350618412
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.013543053495
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8634691613431
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9943453375903
Kn_K16 L_L3 L_L7 0.8568803213531
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.38625244169
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8587433157016
Kn_K22 L_L4 L_L7 0.9934809180649
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1317395196154
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8059242411402
Kn_K27 L_L5 L_L10 0.8250249092515
Kn_K28 L_L6 L_L7 0.8642955424401
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.383781611086
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.13276699016
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.228969291745
Kn_K36 L_L8 L_L10 0.9540553189931
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_21 1 2 3 4 REF
C_C1 1 2 103.23358244527pf
C_C2 1 4 1.1622367018792pf
C_C3 2 REF 1.1771123287371pf
C_C4 2 3 0.4156861005236pf
C_C5 3 REF 0.4576807232385pf
C_C6 4 REF 0.4599094546072pf
R_R1 1 2 121.38043783354
L_L1 1 5 0.3128104128915nh
R_RL1 5 2 -0.022167120169
L_L2 1 6 31.518039284052nh
R_RL2 6 3 0.002762335518
L_L3 1 7 30.772886243012nh
R_RL3 7 4 0.0023112493433
L_L4 2 8 31.781513057951nh
R_RL4 8 3 0.0011522660131
L_L5 2 9 31.045001976535nh
R_RL5 9 4 0.0011987700454
L_L6 3 10 1.2956164578186nh
R_RL6 10 4 1.2530472896e-5
Kn_K1 L_L1 L_L4 -0.091385821802
Kn_K2 L_L1 L_L5 -0.093850068207
Kn_K3 L_L2 L_L3 0.9792706281622
Kn_K4 L_L2 L_L4 0.9950668721774
Kn_K5 L_L2 L_L5 0.9741808161008
Kn_K6 L_L2 L_L6 -0.159678386213
Kn_K7 L_L3 L_L4 0.9745523928718
Kn_K8 L_L3 L_L5 0.9949494469699
Kn_K9 L_L3 L_L6 0.0435889213492
Kn_K10 L_L4 L_L5 0.9794451751401
Kn_K11 L_L4 L_L6 -0.158341754587
Kn_K12 L_L5 L_L6 0.0440787833634
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_22 1 2 3 4 REF
C_C1 1 REF 0.2342955913896pf
C_C2 1 2 35.3508973183pf
C_C3 1 4 0.4268686896233pf
C_C4 2 REF 0.7107961007172pf
C_C5 2 3 0.1726568006854pf
C_C6 3 REF 0.4590227635919pf
C_C7 4 REF 0.4543343759062pf
R_R1 1 2 318.63485135809
L_L1 1 5 0.7152698169035nh
R_RL1 5 2 0.0042822985715
L_L2 3 6 1.3017063571781nh
R_RL2 6 4 -2.8877565e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_23 1 2 3 4 REF
C_C1 1 REF 0.3694850548482pf
C_C2 1 2 16.72666681822pf
C_C3 1 3 0.0371512558512pf
C_C4 1 4 0.2251244266858pf
C_C5 2 REF 0.5899749109372pf
C_C6 2 3 0.1043413027802pf
C_C7 3 REF 0.4586509461924pf
C_C8 4 REF 0.4520371158914pf
R_R1 1 2 833.65932922774
L_L1 1 5 1.0662803211834nh
R_RL1 5 2 -0.014459500713
L_L2 3 6 1.3013654666131nh
R_RL2 6 4 -6.918900999e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_24 1 2 3 4 REF
C_C1 1 REF 0.4228656967073pf
C_C2 1 2 9.6722114566307pf
C_C3 1 3 0.0684908854514pf
C_C4 1 4 0.1494762149647pf
C_C5 2 REF 0.5508564604801pf
C_C6 2 3 0.0766575130956pf
C_C7 3 REF 0.4570241927917pf
C_C8 4 REF 0.4495618089229pf
L_L1 1 5 1.61643041909nh
R_RL1 5 2 -4.827349787e-3
L_L2 3 6 1.2992142307051nh
R_RL2 6 4 -3.923229065e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_25 1 2 3 4 REF
C_C1 1 REF 0.4511509963939pf
C_C2 1 2 6.7420856441085pf
C_C3 1 3 0.0873172147149pf
C_C4 1 4 0.1157086160816pf
C_C5 2 REF 0.5409861195134pf
C_C6 2 3 0.0621859829525pf
C_C7 2 4 0.0440523115779pf
C_C8 3 REF 0.4550833029714pf
C_C9 4 REF 0.447057706822pf
L_L1 1 5 1.8375554376851nh
R_RL1 5 2 -1.330014061e-3
L_L2 3 6 1.2964607547825nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_26 1 2 3 4 REF
C_C1 1 REF 0.4637521169883pf
C_C2 1 2 5.9087086391004pf
C_C3 1 3 0.0979006860528pf
C_C4 1 4 0.1033647467339pf
C_C5 2 REF 0.5424640740316pf
C_C6 2 3 0.0548099221905pf
C_C7 2 4 0.0597914254735pf
C_C8 3 REF 0.4537365906312pf
C_C9 4 REF 0.4453990251305pf
L_L1 1 5 1.9245712450989nh
R_RL1 5 2 7.7953173959e-5
L_L2 3 6 1.2952914385658nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param25_26

